US04296120
N-(1-Methyldecyl)-3-(3-Nitrophenyl)propenamide
To a stirred solution of 31.0 g. of 2-aminoundecane in 100 ml. of tetrahydrofuran, was added a solution of 19.0 g. 3-(3-nitrophenyl)propenoyl chloride in 100 ml. of tetrahydrofuran, dropwise, during 75 minutes, at ca. 5° C. After the addition, the mixture was allowed to warm to room temperature, and stirring was continued for 45 minutes. The solvent was removed by evaporation in vacuo, and the residue was partitioned between ethyl acetate and water. The ethyl acetate layer was removed, washed successively with 1 N hydrochloric acid and water, and dried. Evaporation of the solvent in vacuo, followed by recrystallization of the residue from hexane, afforded 26 g. (83% yield) of the title product, m.p. 81°-83° C.

reactant | 2-aminoundecane | NC(C)CCCCCCCCC | C11H25N
reactant | 3-(3-nitrophenyl)propenoyl chloride | [N+](=O)([O-])C=1C=C(C=CC1)C=CC(=O)Cl | C9H6ClNO3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-(1-Methyldecyl)-3-(3-Nitrophenyl)propenamide | 83% yield | CC(CCCCCCCCC)NC(C=CC1=CC(=CC=C1)[N+](=O)[O-])=O | C20H30N2O3
